US05514824
Preparation of trans-4-(4-(3-methylbutyl)-4-silacyclohexyl)-3', 4'-difluorobiphenyl
The general procedure of Example 12 was repeated using 34.3 g of 4-(4-(3-methylbutyl)-4-phenyl-4-silacyclohexyl)cyclohexanone and 3,4-difluorophenylmagnesium bromide, thereby obtaining the captioned compound.

reactant | 4-(4-(3-methylbutyl)-4-phenyl-4-silacyclohexyl)cyclohexanone | 34.3 g | CC(CC[Si]1(CCC(CC1)C1CCC(CC1)=O)C1=CC=CC=C1)C | C22H34OSi
reactant | 3,4-difluorophenylmagnesium bromide | FC=1C=C(C=CC1F)[Mg]Br
product | trans-4-(4-(3-methylbutyl)-4-silacyclohexyl)-3', 4'-difluorobiphenyl | CC(CC[Si@@H]1CC[C@H](CC1)C1=CC=C(C=C1)C1=CC(=C(C=C1)F)F)C | C22H28F2Si
